US07700583B2
N-(2-Methoxy-ethyl)-N-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]-benzamide
To a mixture of [4-(2-methoxy-ethylamino)-phenyl]-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]oct-6-yl)-methanone (0.1 g, 0.303 mmol) and TEA (0.13 ml, 0.91 mmol) in dry THF (20 ml) was added dropwise benzoyl chloride (0.07 ml, 0.61 mmol). The mixture was stirred for 1 hr. and evaporated in vacuo. The residue was purified on column chromatography (silicagel) using EtOAc-Heptane (1:1) as eluent. Pure fractions were collected; the solvent evaporated in vacuo affording 90 mg (68%) of the title compound as an oil.

reactant | [4-(2-methoxy-ethylamino)-phenyl]-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]oct-6-yl)-methanone | 0.303 mmol, 0.1 g | COCCNC1=CC=C(C=C1)C(=O)N1C2CC(CC(C1)(C2)C)(C)C | C20H30N2O2
reactant | benzoyl chloride | 0.61 mmol, 0.07 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-(2-Methoxy-ethyl)-N-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]-benzamide | 90 mg, 68% | COCCN(C(C1=CC=CC=C1)=O)C1=CC=C(C=C1)C(=O)N1C2CC(CC(C1)(C2)C)(C)C | C27H34N2O3
